US05736539
4-Benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine
The title compound was prepared according to the procedure described in Example 2, Step B, except using 1-benzyl-3(S)-n-butylpiperazine-2,5-dione (4.95 g, 0.019 mol) and lithium aluminum hydride (2.60 g, 0.0685 mol), followed by di-tert-butyl dicarbonate (4.35 g, 0.020 mol). The crude product was purified by column chromatography on silica gel, eluting with 5% ethyl acetate in hexane. The title compound was obtained as a foam (5.63 g). NMR (300 MHz, DMSO-d6) δ 7.25 (5H, m), 3.90 (1H, br s,), 3.73 (1H, d, J=13 Hz), 3.51 (1H, d, J=13 Hz), 3.34 (1H, d, J=13 Hz), 2.93 (1H, m), 2.75 (1H, d, J=11 Hz), 2.62 (1H, d, J=11 Hz), 1.90 (2H, m), 1.60 (2H, m), 1.38 (9H,s), 1.26 (2H, m), 1.04 (2H, m), 0.84 (3H, t, J=7 Hz).

reactant | 1-benzyl-3(S)-n-butylpiperazine-2,5-dione | 0.019 mol, 4.95 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CCCC)=O | C15H20N2O2
reactant | lithium aluminum hydride | 0.0685 mol, 2.60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl dicarbonate | 0.020 mol, 4.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 4-Benzyl-1-tert-butoxycarbonyl-2(S)-n-butylpiperazine | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCC | C20H32N2O2
